US09422281B2
A 50-mL round bottomed flask fitted with a nitrogen inlet and magnetic stir bar was charged with (S)-isopropyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.801 g, 2.1 mmol), dioxane (11 mL), and water (4.6 mL). Cesium carbonate (2.053 g, 6.30 mmol) and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-carboxylate (0.927 g, 3.15 mmol) were then added. The reaction was purged with nitrogen and bis(triphenylphosphine)palladium (II) dichloride (0.177 g, 0.252 mmol) was added. The mixture was heated at 90° C. with vigorous stirring for 5 h and then cooled to ambient temperature. Water (25 mL) was added, and the mixture was extracted with ethyl acetate (3×25 mL). The combined organic extracts were concentrated to afford a viscous oil and purified via column chromatography (gradient elution with 75-100% ethyl acetate-hexanes). The resulting material was triturated with diethyl ether (2×10 mL) to afford (S)-isopropyl 4-(cyclopropanecarbonyl)-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.55 g, 71% yield) as a solid. MS (ESI, pos. ion) m/z 369 [M+1]+.

reactant | (S)-isopropyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 2.1 mmol, 0.801 g | BrC1=CC=C2N([C@H](CN(C2=C1)C(=O)OC(C)C)C)C(=O)C1CC1 | C17H21BrN2O3
reactant | dioxane | 11 mL | O1CCOCC1 | C4H8O2
reactant | Cesium carbonate | 6.30 mmol, 2.053 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-carboxylate | 3.15 mmol, 0.927 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
catalyst | bis(triphenylphosphine)palladium | 0.252 mmol, 0.177 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | Water | 25 mL | O | H2O
solvent | water | 4.6 mL | O | H2O
product | (S)-isopropyl 4-(cyclopropanecarbonyl)-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.55 g, 71% yield | C1(CC1)C(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NNC1)C(=O)OC(C)C)C | C20H24N4O3
